US05433855
Thiophosphoryl chloride (17.0 g) was dissolved in toluene (250 cm3) and triethylamine (21.5 g) was added. The solution was stirred at 20° C. and 2,4-dimethylphenol (24.4 g) was added in portions during 1 hr. The mixture was stirred for 2 hr. and then heated and stirred at 80° C. for a further 2 hr. and then cooled and filtered to remove triethylamine hydrochloride. The toluene was distilled under reduced pressure leaving bis(2,4-dimethylphenyl) chlorothiophosphate (oil, 30.6 g. 31P NMR in CDCl3, singlet 54.57 ppm downfield of H3PO4).

reactant | Thiophosphoryl chloride | 17.0 g | P(=S)(Cl)(Cl)Cl | Cl3PS
reactant | triethylamine | 21.5 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dimethylphenol | 24.4 g | CC1=C(C=CC(=C1)C)O | C8H10O
solvent | toluene | 250 cm3 | C1(=CC=CC=C1)C | C7H8
product | bis(2,4-dimethylphenyl) chlorothiophosphate | 30.6 g | P(=S)(OC1=C(C=C(C=C1)C)C)(OC1=C(C=C(C=C1)C)C)Cl | C16H18ClO2PS
